US05753664
7-[4-(4-Chlorobenzoyl)benzyl]-3-propyl-7H-pyrrolo-[2,3-d]pyrimidin-4-one
Under argon gas, 3-propyl-7H-pyrrolo[2,3-d]pyrimidin-4-one (249 mg) was dissolved in anhydrous DME (6 ml) and, under ice-cooling and stirring, 60% sodium hydride-oil (62 mg) was added. The mixture was stirred for 30 minutes, after which a solution of 4-(4-chlorobenzoyl)benzyl bromide (564 mg) in anhydrous DME (2 ml) was added. The mixture was further stirred at room temperature for 2 hours. The solvent was then distilled off under reduced pressure and the residue was dissolved in ethyl acetate, washed with saturated aqueous NaCl solution, and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by flash column chromatography (silica gel, 21 g; hexane: ethyl acetate =4:1-3:2) to provide the title compound as colorless powder (507 mg).

reactant | 3-propyl-7H-pyrrolo[2,3-d]pyrimidin-4-one | 249 mg | C(CC)N1C=NC2=C(C1=O)C=CN2 | C9H11N3O
reactant | sodium hydride | 62 mg | [H-].[Na+]
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 564 mg | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | DME | 6 ml | COCCOC | C4H10O2
solvent | DME | 2 ml | COCCOC | C4H10O2
product | 7-[4-(4-Chlorobenzoyl)benzyl]-3-propyl-7H-pyrrolo-[2,3-d]pyrimidin-4-one | 507 mg | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CC4=C3N=CN(C4=O)CCC)C=C2)C=C1 | C23H20ClN3O2
